US08252935B2
a) 4-Methyl-2-{5-[1-(4-methyl-pent-2-enyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester
To a solution of a mixture of 4-methyl-2-(5-piperidin-4-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester and methyl ester (68b) (60 mg, 0.13 mmol) in 1,2-dichloroethane (2.0 mL) was added 4-methyl-pent-2-enal (15 mg, 0.15 mmol) and sodiumtriacetoxyborohydride (37 mg, 0.17 mmol). The mixture was stirred for 2 h at room temperature. The reaction was quenched with water and extracted with dichloromethane. The organic was washed with saturated aqueous NaHCO3 solution and brine. The organic fraction was dried (MgSO4) and concentrated in vacuo. The crude mixture contained 4-methyl-2-{5-[1-(4-methyl-pent-2-enyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl and methyl ester. Calcd for C31H40F3NO2 (M+H) 516.65, Found 516.30 (methyl ester) and Calcd for C32H42F3NO2 (M+H) 530.68, Found 531.24 (ethyl ester).

reactant | 4-methyl-2-(5-piperidin-4-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCNCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 4-methyl-pent-2-enal | 0.15 mmol, 15 mg | CC(C=CC=O)C | C6H10O
reactant | sodiumtriacetoxyborohydride | 0.17 mmol, 37 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2.0 mL | ClCCCl | C2H4Cl2
product | 4-Methyl-2-{5-[1-(4-methyl-pent-2-enyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCN(CC1)CC=CC(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C32H42F3NO2
